US08809371B2
Sodium hydride (61% in oil) (11 mg) was added to a DMF (0.9 ml) solution containing (5-bromopyridin-3-yl)methanol (34 mg) under ice cooling, followed by stirring for 1 hour. Then, methyl iodide (17 μl) was added, followed by stirring at room temperature for 13 hours. Thereafter, water was added to the reaction solution, followed by extraction with ethyl acetate. The resultant was washed with saturated saline and dried over anhydrous sodium sulfate. Subsequently, the solvent was distilled away under reduced pressure, the obtained residue was purified by silica gel chromatography (n-hexane:ethyl acetate=4:1 to 1:1), and a light yellow solid of 3-bromo-5-(methoxymethyl)pyridine (26.5 mg) was thus obtained.

reactant | Sodium hydride | 11 mg | [H-].[Na+]
reactant | DMF | 0.9 ml | CN(C)C=O | C3H7NO
reactant | (5-bromopyridin-3-yl)methanol | 34 mg | BrC=1C=C(C=NC1)CO | C6H6BrNO
reactant | methyl iodide | 17 μl | CI | CH3I
solvent | water | O | H2O
product | 3-bromo-5-(methoxymethyl)pyridine | 26.5 mg | BrC=1C=NC=C(C1)COC | C7H8BrNO
